US07148357B2
100 mg (0.23 mmol) of 2-[(2-bromopyridin-4-ylmethyl)-amino]-N-(3-isoquinolinyl)-benzamide is heated in 2 ml of dioxane with 89 mg (0.28 mmol) of cesium carbonate, 61 mg (0.69 mmol) of N,N-dimethylurea, 4.7 mg (0.0046 mmol) of dipalladium-tribenzylidene acetone and 7.9 mg (0.014 mmol) of Xanthphos under a cover gas and in a moisture-free environment for 9 hours to a bath temperature of 100° C. It is then mixed with 20 ml of methylene chloride, suctioned off and concentrated by evaporation. The residue is chromatographed on silica gel with ethyl acetate as an eluant. 24 mg (24% of theory) of 2-{[2-(3,3-dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-N-(3-isoquinolinyl)-benzamide is obtained.

reactant | 2-[(2-bromopyridin-4-ylmethyl)-amino]-N-(3-isoquinolinyl)-benzamide | 0.23 mmol, 100 mg | BrC1=NC=CC(=C1)CNC1=C(C(=O)NC=2N=CC3=CC=CC=C3C2)C=CC=C1 | C22H17BrN4O
reactant | cesium carbonate | 0.28 mmol, 89 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylurea | 0.69 mmol, 61 mg | CN(C(=O)N)C | C3H8N2O
reactant | Xanthphos | 0.014 mmol, 7.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-{[2-(3,3-dimethyl-ureido)-pyridin-4-ylmethyl]-amino}-N-(3-isoquinolinyl)-benzamide | 24 mg, 24% | CN(C(NC1=NC=CC(=C1)CNC1=C(C(=O)NC=2N=CC3=CC=CC=C3C2)C=CC=C1)=O)C | C25H24N6O2
